US07868181B2
Intermediate 2: 1-[(2E)-3-(3,4-dichlorophenyl)prop-2-en-1-yl]-1H-indole-2,3-dione
A mixture of 1-allyl-1H-indole-2,3-dione (1.00 g, 5.34 mmol), Pd(P(t-Bu)3)2 (0.0819 g, 0.16 mmol), 1,2-dichloro-4-iodobenzene (1.458 g, 5.34 mmol), dry toluene (10 mL), and N-cyclohexyl-N-methylcyclohexanamine (1.23 mL, 5.86 mmol) in an oven-dried sealed tube under an atmosphere of N2 was heated for 16 h at 80° C. The reaction was cooled, diluted with CH2Cl2, and loaded directly onto a silica gel column that had been packed with CH2Cl2. The column was eluted with a gradient of 100% CH2Cl2 to 95:5 CH2Cl2:EtOAc. The appropriate fractions were combined to provide the title compound as an orange solid (1.489 g, 84%). 1H NMR (600 MHz, CHLOROFORM-D) δ ppm 4.52 (d, J=5.9 Hz, 2H), 6.19 (dt, J=15.9, 5.9 Hz, 1H), 6.56 (d, J=15.6 Hz, 1H), 6.91 (d, J=7.9 Hz, 1H), 7.09-7.20 (m, 2H), 7.37 (d, J=8.2 Hz, 1H), 7.42 (s, 1H), 7.57 (t, J=7.8 Hz, 1H), 7.64 (d, J=7.4 Hz, 1H).

reactant | 1-allyl-1H-indole-2,3-dione | 5.34 mmol, 1.00 g | C(C=C)N1C(C(C2=CC=CC=C12)=O)=O | C11H9NO2
reactant | 1,2-dichloro-4-iodobenzene | 5.34 mmol, 1.458 g | ClC1=C(C=C(C=C1)I)Cl | C6H3Cl2I
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-cyclohexyl-N-methylcyclohexanamine | 5.86 mmol, 1.23 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(P(t-Bu)3)2 | 0.16 mmol, 0.0819 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 1-[(2E)-3-(3,4-dichlorophenyl)prop-2-en-1-yl]-1H-indole-2,3-dione | 1.489 g, 84% | ClC=1C=C(C=CC1Cl)/C=C/CN1C(C(C2=CC=CC=C12)=O)=O | C17H11Cl2NO2
